US05342846
5-Amino-1-cyclopropyl-6-fluoro-8-methoxy-7-[3-(4-methyl -1,2,3-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
3-(4-methyl-1,2,3-triazol-1-yl)pyrrolidine hydrochloride (159 mg, 0.85 mmol) were added to a suspension of 5-amino-1-cyclopropyl-6,7-difluoro-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (100 mg, 0.34 mmol) in pyridine (5 ml). The reaction mixture was heated at 120° C. for 30 hrs, concentrated and the residue was triturated with water. The separated solid was filtered, washed with water and recrystallized from chloroform-hexane. Yield 52 mg; m.p. 255.6°-256.2 ° C. 1H NMR (TFA) δ: 9.39 (s, 1H), 8.40 (s, 1H), 5.77 (s, 1H), 4.34-4.83 (m, 4H), 4.10 (m, 1H), 3.79 (s, 3H), 2.89 (m, 2H), 2.68 (s, 3H), 1.22-1.67 (m, 4H).

reactant | 3-(4-methyl-1,2,3-triazol-1-yl)pyrrolidine hydrochloride | 0.85 mmol, 159 mg | Cl.CC=1N=NN(C1)C1CNCC1
reactant | 5-amino-1-cyclopropyl-6,7-difluoro-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.34 mmol, 100 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)OC)C1CC1)C(=O)O)=O | C14H12F2N2O4
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 5-Amino-1-cyclopropyl-6-fluoro-8-methoxy-7-[3-(4-methyl -1,2,3-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(CC1)N1N=NC(=C1)C)OC)C1CC1)C(=O)O)=O | C21H23FN6O4
